US04579961
Synthesis of ethyl β-(trichlorogermyl)hydrocinnamate (10)
A mixture of 36 g (0.2 mol) of trichlorogermane and 35.2 g (0.2 mol) of ethyl cinnamate was stirred for 2 hours, and then the reaction product was distilled under vacuum to afford 56 g of a fraction, b.p. 169°-170° C./4 mmHg. Yield 78.7%.

reactant | trichlorogermane | 0.2 mol, 36 g | Cl[GeH](Cl)Cl | Cl3GeH
reactant | ethyl cinnamate | 0.2 mol, 35.2 g | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
product | ethyl β-(trichlorogermyl)hydrocinnamate | Yield 78.7% | Cl[Ge](C(CC(=O)OCC)C1=CC=CC=C1)(Cl)Cl | C11H13Cl3GeO2
